US05025025
To a solution of 1.83 g of methyl 2,2-dimethyl-4-[3-(3-pyridyl)-2-propenyl]-8-(t-butyldimethylsiloxy)-octanoate in 50 mL ethanol is added 0.18 g of 10% palladium on carbon. The mixture is hydrogenated at 3 atmospheres pressure in a Parr apparatus for 7.5 hours. The catalyst is filtered off and washed with ethanol. The solvent is evaporated to give methyl 2,2-dimethyl-4-[3-(3-pyridyl)-propyl]-8-(t-butyldimethylsiloxy)-octanoate as an oil; NMR (CDCl3): delta 3.58 (s,3H), 3.55 (t,2H), 2.57 (t,2H), 1.13 (s,6H).

reactant | methyl 2,2-dimethyl-4-[3-(3-pyridyl)-2-propenyl]-8-(t-butyldimethylsiloxy)-octanoate | 1.83 g | CC(C(=O)OC)(CC(CCCCO[Si](C)(C)C(C)(C)C)CC=CC=1C=NC=CC1)C | C25H43NO3Si
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.18 g | [Pd] | Pd
product | methyl 2,2-dimethyl-4-[3-(3-pyridyl)-propyl]-8-(t-butyldimethylsiloxy)-octanoate | CC(C(=O)OC)(CC(CCCCO[Si](C)(C)C(C)(C)C)CCCC=1C=NC=CC1)C | C25H45NO3Si
